US05679671
1-Carboxymethyl-3-[(S)-2-mercapto-3-phenylpropionylamino]-8-phenyl-1H-[1]benzazepin-2-one
To a mixture of 358 mg (0.657 mmol) of 3-[(S)-2-acetylthio-3-phenylpropionylamino]-1-ethoxycarbonylmethyl-8-phenyl-1H-[1]benzazepin-2-one obtained in the Example A-2 with 10 ml of degassed ethanol was added 3.3 ml of a degassed 1N aqueous solution of sodium hydroxide at 0° C. under a nitrogen atmosphere under stirring. The mixture thus obtained was stirred at room temperature for 2 hours and half. The reaction mixture was cooled and acidified with 1N hydrochloric acid and water was further added thereto. The white crystals thus precipitated were collected by filtration, washed with water and n-hexane and dried under reduced pressure. Thus, 267 mg of the title compound was obtained. Yield 86%.

reactant | 3-[(S)-2-acetylthio-3-phenylpropionylamino]-1-ethoxycarbonylmethyl-8-phenyl-1H-[1]benzazepin-2-one | 0.657 mmol, 358 mg | C(C)(=O)S[C@H](C(=O)NC1C(N(C2=C(C=C1)C=CC(=C2)C2=CC=CC=C2)CC(=O)OCC)=O)CC2=CC=CC=C2 | C31H30N2O5S
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
product | 1-Carboxymethyl-3-[(S)-2-mercapto-3-phenylpropionylamino]-8-phenyl-1H-[1]benzazepin-2-one | 267 mg, Yield 86% | C(=O)(O)CN1C(C(C=CC2=C1C=C(C=C2)C2=CC=CC=C2)NC([C@H](CC2=CC=CC=C2)S)=O)=O | C27H24N2O4S
